US05972946
Preparation of 2-(5,6,7,8-tetrahydro-2-phenyl-4-quinazolinyloxy)-N,N-dipropylpropanamide:
The same procedures as Example 136 are repeated except that 5,6,7,8-tetrahydro-2-phenyl-4-(3H)-quinazolinone and 2-bromo-N,N-dipropylpropanamide are used instead of 5,6-dimethyl-2-phenyl-4-(3H)-pyrimidinone and 2-bromo-N,N-dipropylacetamide, respectively. The product thus obtained is recrystallized from n-hexane to give the desired compound, m.p. 73-74° C.

reactant | 5,6,7,8-tetrahydro-2-phenyl-4-(3H)-quinazolinone | C1(=CC=CC=C1)C1=NC=2CCCCC2C(N1)=O | C14H14N2O
reactant | 2-bromo-N,N-dipropylpropanamide | BrC(C(=O)N(CCC)CCC)C | C9H18BrNO
reactant | 5,6-dimethyl-2-phenyl-4-(3H)-pyrimidinone | CC=1C(NC(=NC1C)C1=CC=CC=C1)=O | C12H12N2O
reactant | 2-bromo-N,N-dipropylacetamide | BrCC(=O)N(CCC)CCC | C8H16BrNO
product | 2-(5,6,7,8-tetrahydro-2-phenyl-4-quinazolinyloxy)-N,N-dipropylpropanamide | C1(=CC=CC=C1)C1=NC=2CCCCC2C(=N1)OC(C(=O)N(CCC)CCC)C | C23H31N3O2
